US08222416B2
To a 250 mL round bottomed flask charged with ((1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanol (5.08 g, 10 mmol) and dichloromethane (50 mL) was added Dess-Martin periodinane (10.65 g, 25 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 2 h before quenching with saturated aqueous sodium bicarbonate solution (100 mL). The mixture was extracted with ethyl acetate (250 mL), washed with saturated aqueous sodium bicarbonate solution (3×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give (1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanone as a light yellow solid (4.3 g, 85%) which was used for the next step without further purification: LC/MS m/e calcd for C23H18F3N2O4S2 [M+H]+ 507.06, observed 507.0.

reactant | (1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanol | 10 mmol, 5.08 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(O)C2=CC(=C(C=C2)SC)C(F)(F)F | C23H19F3N2O4S2
reactant | Dess-Martin periodinane | 25 mmol, 10.65 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanone | 4.3 g, 85% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=O)C2=CC(=C(C=C2)SC)C(F)(F)F | C23H17F3N2O4S2
